US05854277
Preparation of Benzyl-3-bromopropionate
A spatula tip full of p-toluenesulfonic acid monohydrate was added to a solution of 3-bromopropionic acid (20.49 g, 0.134 mol) and benzyl alcohol (15 mL, ~ 15.7 g, 0.145 mol) in benzene (150 mL). A Dean-Stark trap was fitted to the reaction vessel and the solution was held at reflux with overnight stirring. After 16 hr at reflux, the reaction was cooled, washed with saturated sodium bicarbonate, dried (Na2SO4), and concentrated to an oil (28.78 g). Fractional distillation at reduced pressure (0.18 torr) gave the desired product as a colorless liquid (18.49 g, 56%) boiling in the range 99°-109° C.

reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-bromopropionic acid | 0.134 mol, 20.49 g | BrCCC(=O)O | C3H5BrO2
reactant | benzyl alcohol | 0.145 mol, 15 mL, ~ 15.7 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | Benzyl-3-bromopropionate | 18.49 g, 56% | C(C1=CC=CC=C1)OC(CCBr)=O | C10H11BrO2
